US06040321
A mixture of 1-amino-2-butanol (5.5 g, 61.8 mmol), benzyl chloroformate (11.5 g, 67.6 mmol) and sodium carbonate (7.16 g, 67.7 mmol) in water (50 mL) was stirred at 0° C. for 3 h. Water (50 mL) was added to the reaction mixture and the product was extracted with methylene chloride (3×20 mL). The methylene chloride extract was dried over Na2SO4 and concentrated. The residue was passed through a short column (SiO2, hexanes: ethyl acetate/10:1; then ethyl acetate) to afford 1-benzyloxycarbonylamino-2-butanol (13.9 g, 100%) as a liquid.

reactant | 1-amino-2-butanol | 61.8 mmol, 5.5 g | NCC(CC)O | C4H11NO
reactant | benzyl chloroformate | 67.6 mmol, 11.5 g | ClC(=O)OCC1=CC=CC=C1 | C8H7ClO2
reactant | sodium carbonate | 67.7 mmol, 7.16 g | C([O-])([O-])=O.[Na+].[Na+]
solvent | water | 50 mL | O | H2O
solvent | Water | 50 mL | O | H2O
product | 1-benzyloxycarbonylamino-2-butanol | 13.9 g, 100% | C(C1=CC=CC=C1)OC(=O)NCC(CC)O | C12H17NO3
